US04490527
N-[2-[[[5-[(Dimethylamino)Methyl]-2-Furanyl]Methyl]Thio]Ethyl]Thieno[3,4-d]Isothiazol-3-Amine-1,1-Dioxide
To a suspension of 1.8 g. (0.0082 m.) of 3-(methylthio)thieno[3,4-d]isothiazole-1,1-dioxide in 10 ml. of ethanol is added 1.76 g. (0.0082 m.) of 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine with stirring at room temperature. The reaction mixture is heated to reflux and heating is continued for 1.5 hours. At this time the reaction mixture is filtered to remove insoluble material and then evaporated to dryness. The product is purified using a silica gel column with methanol as the eluant. The desired fraction was evaporated to dryness and then triturated with ether to give 120 mg. a white solid with a m.p. 100°-103° C.

reactant | 3-(methylthio)thieno[3,4-d]isothiazole-1,1-dioxide | CSC1=NS(C=2C1=CSC2)(=O)=O | C6H5NO2S3
reactant | 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | ethanol | C(C)O | C2H6O
product | N-[2-[[[5-[(Dimethylamino)Methyl]-2-Furanyl]Methyl]Thio]Ethyl]Thieno[3,4-d]Isothiazol-3-Amine-1,1-Dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(C=2C1=CSC2)(=O)=O | C15H19N3O3S3
